US07241785B2
A mixture of ethyl 3-hydroxy-1H-pyrazole-4-carboxylate (11.53 g), benzyl bromide (18 ml), potassium carbonate (21.12 g) and N,N-dimethylformamide (300 ml) was stirred at 80° C. for 5 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dilute hydrochloric acid, then washed successively with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 1-benzyl-3-benzyloxy-1H-pyrazole-4-carboxylate (13.52 g, yield 95%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 71–72° C.

reactant | ethyl 3-hydroxy-1H-pyrazole-4-carboxylate | 11.53 g | OC1=NNC=C1C(=O)OCC | C6H8N2O3
reactant | benzyl bromide | 18 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 21.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-benzyl-3-benzyloxy-1H-pyrazole-4-carboxylate | 13.52 g, yield 95% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC=CC=C1 | C20H20N2O3
